US05344843
To a stirred suspension of sodium hydride (55% dispersion in mineral oil, 0.105 g) in dimethylformamide (5 mL) was added dropwise a solution of 4-hydroxy-alpha-oxobenzene acetic acid methyl ester (0.432 g) in dimethylformamide (5 mL) under argon. The mixture was then treated dropwise with a solution of 2-[8-(2,2-dimethyl-1-oxobutoxy)-2naphthalenyloxy]ethyl methanesulfonate (0.76 g) in dimethylformamide (5 mL). The reaction was heated for 18 hours at 60° C., diluted with brine, and extracted with ethyl acetate. After evaporation of volatiles, the residue was purified by chromatography over silica gel (hexane-ethyl acetate; 10: 1) to yield 0.375 g of 4-[[2-[8-(2,2-dimethyl-1-oxobutoxy)-2-naphthalenyloxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester as a white solid, mp 119°-120° C.

reactant | sodium hydride | 0.105 g | [H-].[Na+]
reactant | 4-hydroxy-alpha-oxobenzene acetic acid methyl ester | 0.432 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | 2-[8-(2,2-dimethyl-1-oxobutoxy)-2naphthalenyloxy]ethyl methanesulfonate | 0.76 g | CS(=O)(=O)OCCOC1=CC2=C(C=CC=C2C=C1)OC(C(CC)(C)C)=O | C19H24O6S
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-[[2-[8-(2,2-dimethyl-1-oxobutoxy)-2-naphthalenyloxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.375 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=C(C=CC=C2C=C1)OC(C(CC)(C)C)=O)=O)=O | C27H28O7
